US06649627B1
4-ter-Butoxycarbonylamino-1-(5-methoxycarbonyl-pyrid-2-ylmethyl)-piperidine
A solution containing 0.7 g (0.0034 mole) of the product of preparation 1, 0.53 g (0.0023 mole) of 2-bromomethyl-5-methoxycarbonyl-pyridine (prepared using the procedure described in J. Med. Chem., 1992, 3, 490-501), and 0.26 ml (0.0025 mole) of triethylamine in 10 ml of dimethylformamide is heated at 40° C. for 2 hours. It is then poured into water, extracted with ethyl acetate and the reaction product purified by flash chromatography (eluant: ethyl acetate). The named compound is obtained: M. P. 110-112° C.

reactant | 2-bromomethyl-5-methoxycarbonyl-pyridine | 0.0023 mole, 0.53 g | BrCC1=NC=C(C=C1)C(=O)OC | C8H8BrNO2
reactant | triethylamine | 0.0025 mole, 0.26 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-ter-Butoxycarbonylamino-1-(5-methoxycarbonyl-pyrid-2-ylmethyl)-piperidine | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC1=NC=C(C=C1)C(=O)OC | C18H27N3O4
